US07388020B2
i) N-Cyclopropyl-4-fluoro-2-[(2S)oxiranylmethoxy]benzamide
A mixture of methyl 4-fluoro-2-hydroxybenzoate (0.17 g, 1 mmol) and cyclopropylamine (1 ml) was stirred at room temperature overnight. Cyclopropylamine was removed in vacuo, and the residue dissolved in dry DMF (5 ml). (2S)-2-[(3-nitrophenoxy)-methyl]oxirane (0.195 g, 1.0 mmol) and cesium carbonate (0.478 g, 1.5 mmol) were added, and the mixture was stirred at room temperature for 2 days. The reaction mixture was partitioned between ethyl acetate (50 ml) and water (50 ml). The aqueous layer was extracted with ethyl acetate (25 ml) and the combined organic layers were dried with sodium sulphate and concentrated. The residue was purified by flash chromatography (silica gel, n-heptane/ethyl acetate, 1:1) to afford the subtitle compound (0.104 g, 0.41 mmol, 41%) as a colourless solid.

reactant | methyl 4-fluoro-2-hydroxybenzoate | 1 mmol, 0.17 g | FC1=CC(=C(C(=O)OC)C=C1)O | C8H7FO3
reactant | cyclopropylamine | 1 ml | C1(CC1)N | C3H7N
reactant | (2S)-2-[(3-nitrophenoxy)-methyl]oxirane | 1.0 mmol, 0.195 g | [N+](=O)([O-])C=1C=C(OC[C@H]2OC2)C=CC1 | C9H9NO4
reactant | cesium carbonate | 1.5 mmol, 0.478 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | N-Cyclopropyl-4-fluoro-2-[(2S)oxiranylmethoxy]benzamide | 0.41 mmol, 0.104 g, 41% | C1(CC1)NC(C1=C(C=C(C=C1)F)OC[C@H]1OC1)=O | C13H14FNO3
